US08461175B2
A 50 ml three-necked flask equipped with a magnetic stirrer and with an argon intake is charged with 350 mg of 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde, prepared in step 5 of example 2, in 7.8 ml of 1,4-dioxane. 195 mg of 1-ethylsulphonylpiperidin-4-ylamine, 880 mg of caesium carbonate, 59 mg of 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene and 15 mg of palladium(II) acetate are added. The mixture is heated at reflux for 2 h. After cooling, the mixture is poured into water and extracted with AcOEt. The organic phase is washed with saturated NaCl solution, dried over MgSO4, filtered and concentrated under RP. It is purified by flash chromatography on silica gel (15-40 μm), eluting with a mixture of cyclohexane and AcOEt (75/25 by vol.), to give 195 mg of 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde (yellow foam). LC-MS-DAD-ELSD 628=(M−H)(+).

reactant | 3-bromo-5-(2,6-difluorophenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde | 350 mg | BrC=1N(N=C2C1N=C(C=1C=C(C=CC21)C=O)C2=C(C=CC=C2F)F)COCC[Si](C)(C)C | C23H22BrF2N3O2Si
reactant | 1-ethylsulphonylpiperidin-4-ylamine | 195 mg | C(C)S(=O)(=O)N1CCC(CC1)N | C7H16N2O2S
reactant | caesium carbonate | 880 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 59 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 7.8 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 5-(2,6-difluorophenyl)-3-{[1-(ethylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbaldehyde | 195 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C=O)N(N=C2NC2CCN(CC2)S(=O)(=O)CC)COCC[Si](C)(C)C | C30H37F2N5O4SSi
